US06262044B1
To a mixture of phthalimidoacetaldehyde (64 g, 0.34 mol) and trans-1-methoxy-3-(trimethylsilyloxy)-1,3-butadiene (81.5 g, 0.38 mol) in benzene (600 ml) stirred for 15 min. under nitrogen was added dropwise a 45% solution of zinc chloride diethyl ether complex in dichloromethane (55.5 ml, 0.17 mol) at 0° C. The reaction was allowed warm up to room temperature overnight. To the reaction mixture was added water (500 ml) and the resulting mixture was extracted with ethyl acetate (200 ml). The organic extract was washed successively with 1.0 N hydrochloric acid (2×200 ml) and brine (200 ml). The organic phase was dried (Na2SO4), filtered and the solvent evaporated in vacuo which afforded a slowly crystallising oil (98 g). To the solid was added a mixture of ethyl acetate and diethyl ether (400 ml, 1:1) and the resulting precipitate was filtered off, washed with a small portion of diethyl ether and dried at 50° C. for 1h affording 59.8 g (69%) of 2-(4-oxo-3,4-dihydro-2H-pyran-2-ylmethyl)-isoindole-1,3-dione as a solid. The filtrate was evaporated in vacuo and the residue purified by column chromatography on silica gel (1 L) using a mixture of ethyl acetate and heptane (1:2) as eluent. Pure fractions were collected and the solvent evaporated in vacuo to almost dryness, the solid was filtered off and dried in vacuo at 50° C. for 16 h affording an additional 15 g (17%) of 2-(4-oxo-3,4-dihydro-2H-pyran-2-ylmethyl)-isoindole-1,3-dione as a solid.

reactant | phthalimidoacetaldehyde | 0.34 mol, 64 g | C1(C=2C(C(N1CC=O)=O)=CC=CC2)=O | C10H7NO3
reactant | trans-1-methoxy-3-(trimethylsilyloxy)-1,3-butadiene | 0.38 mol, 81.5 g | CO\C=C\C(=C)O[Si](C)(C)C | C8H16O2Si
reactant | dichloromethane | 0.17 mol, 55.5 ml | ClCCl | CH2Cl2
reactant | water | 500 ml | O | H2O
solvent | benzene | 600 ml | C1=CC=CC=C1 | C6H6
catalyst | zinc chloride diethyl ether complex | CCOCC.Cl[Zn]Cl
product | 2-(4-oxo-3,4-dihydro-2H-pyran-2-ylmethyl)-isoindole-1,3-dione | 59.8 g, 69% | O=C1CC(OC=C1)CN1C(C2=CC=CC=C2C1=O)=O | C14H11NO4
